US06124462
The general procedure from Example 1 was followed using 4-chlorobenzo-trifluoride (650 mg, 3.6 mmol) and piperidine (258 mg, 3.0 mmol) with Pd2 (dba)3 (55 mg, 0.081 mmol) and (Me3C)2PH(O) (21.0 mg, 0.126 mmol) and NaOtBu (432 mg, 4.5 mmol) in 6.0 mL of toluene. After 48 h, the reaction mixture was chromatographed with 5% ethyl acetate/hexane to give 161 mg (23% yield) of 4-piperidinobenzotrifluoride. It was >95% pure by 1H NMR and GC/MS. 1H NMR (500 MHz, CDCl3): δ 7.36 (d, J=8.78 Hz, 2H), 6.82 (d, J=8.79 Hz, 2H), 3.18 (m, 4H), 1.60 (m, 4H), 1.54 (m, 2H) ppm. 13C NMR (125 MHz, CDCl3): d 153.7, 127.6, 126.3, 114.5, 49.2, 25.4, 24.2 ppm. MS: Calculated for C12H14F3N(M+): 229.1. Found: 230.2 (M+ +H).

reactant | 4-chlorobenzo-trifluoride | 3.6 mmol, 650 mg | ClC1=CC=C(C=C1)C(F)(F)F | C7H4ClF3
reactant | piperidine | 3.0 mmol, 258 mg | N1CCCCC1 | C5H11N
reactant | NaOtBu | 4.5 mmol, 432 mg | CC(C)(C)[O-].[Na+]
solvent | toluene | 6.0 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2 (dba)3 | 0.081 mmol, 55 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-piperidinobenzotrifluoride | 161 mg, 23% yield | N1(CCCCC1)C1=CC=C(C=C1)C(F)(F)F | C12H14F3N
